US07935722B2
6-Amino-6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile
Combine (4-oxocyclohexyl)carbamic acid tert-butyl ester (40.9 g, 192 mmol) and 4-cyanophenylhydrazine hydrochloride (25.0 g, 147 mmol) in concentrated hydrochloric acid (100 mL) and water (200 mL) and heat at reflux for 18 h. Allow to cool and collect the precipitate. Wash with Na2CO3 solution and azetrope with CHCl3, absolute EtOH, and CHCl3 again to obtain 25.5 g of a white solid (82%). MS (ES): m/z 212 (M+1).

reactant | (4-oxocyclohexyl)carbamic acid tert-butyl ester | 192 mmol, 40.9 g | C(C)(C)(C)OC(NC1CCC(CC1)=O)=O | C11H19NO3
reactant | 4-cyanophenylhydrazine hydrochloride | 147 mmol, 25.0 g | Cl.C(#N)C1=CC=C(C=C1)NN
solvent | hydrochloric acid | 100 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 6-Amino-6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile | 25.5 g, 82% | NC1CC=2C=3C=C(C=CC3NC2CC1)C#N | C13H13N3
